### PR TITLE
[Merged by Bors] - feat: the category of commutative bialgebras

### PR DESCRIPTION
**Pull request by YaelDillies**
Define the bundled category `CommBialgCat R` of commutative bialgebras over a fixed commutative ring `R` along with the forgetful functor to `CommAlgCat`.

From Toric

Co-authored-by: Andrew Yang <the.erd.one@gmail.com>
Co-authored-by: Michał Mrugała <kiolterino@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/CommBialgCat.lean [hunk 1]
```diff
@@ -0,0 +1,234 @@
...
+
+open Bialgebra Coalgebra Opposite CategoryTheory Limits Mon_Class
+open scoped MonoidalCategory
+
+universe v u
+variable {R : Type u} [CommRing R]
+
+variable (R) in
+/-- The category of commutative `R`-bialgebras and their morphisms. -/
+structure CommBialgCat where
```
Comment (Whysoserioushah) [inline Mathlib/Algebra/Category/CommBialgCat.lean:27]: should we have `CoCommBialgCat` as well? and also `CommCoalgCat`?

File: Mathlib/Algebra/Category/CommBialgCat.lean [hunk 2]
```diff
@@ -0,0 +1,234 @@
...
+
+variable (R) in
+lemma coe_of (X : Type v) [CommRing X] [Bialgebra R X] : (of R X : Type v) = X := rfl
+
+/-- The type of morphisms in `CommBialgCat R`. -/
+@[ext]
+structure Hom (A B : CommBialgCat.{v} R) where
+  private mk ::
+  /-- The underlying bialgebra map. -/
+  hom' : A →ₐc[R] B
```
Comment (Whysoserioushah) [inline Mathlib/Algebra/Category/CommBialgCat.lean:60]: isn't it a bit too many characters :-(, it's "\_ac" everytime I write a bialghom

File: Mathlib/Algebra/Category/CommBialgCat.lean [hunk 3]
```diff
@@ -0,0 +1,234 @@
...
+
+/- Provided for rewriting. -/
+lemma id_apply (A : CommBialgCat.{v} R) (a : A) : (𝟙 A : A ⟶ A) a = a := by simp
+
+@[simp] lemma hom_comp (f : A ⟶ B) (g : B ⟶ C) : (f ≫ g).hom = g.hom.comp f.hom := rfl
+
+/- Provided for rewriting. -/
+lemma comp_apply (f : A ⟶ B) (g : B ⟶ C) (a : A) : (f ≫ g) a = g (f a) := by simp
+
+@[ext] lemma hom_ext {f g : A ⟶ B} (hf : f.hom = g.hom) : f = g := Hom.ext hf
```
Comment (Whysoserioushah) [inline Mathlib/Algebra/Category/CommBialgCat.lean:94]: should there be a `hom_ext_iff`?

File: Mathlib/Algebra/Category/CommBialgCat.lean [hunk 4]
```diff
@@ -0,0 +1,234 @@
...
+/-- Forgetting to the underlying type and then building the bundled object returns the original
+bialgebra. -/
+@[simps]
+def ofSelfIso (M : CommBialgCat.{v} R) : of R M ≅ M where
+  hom := 𝟙 M
+  inv := 𝟙 M
+
+/-- Build an isomorphism in the category `CommBialgCat R` from a `BialgEquiv` between
+`Bialgebra`s. -/
+@[simps]
```
Comment (Whysoserioushah) [inline Mathlib/Algebra/Category/CommBialgCat.lean:138]: should it be called `mkIso` or `isoMk`?

File: Mathlib/Algebra/Category/CommBialgCat.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Category/CommBialgCat.lean:60]: I don't disagree, but this notation is pre-existing

File: Mathlib/Algebra/Category/CommBialgCat.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Category/CommBialgCat.lean:27]: `CommCocommBialgCat` might be useful in the future, as it corresponds to cocommutative comonoid objects in the category of algebras. But so far Toric has fared perfectly well merely with `CommBialgCat` + `IsCocomm` and `Mon_` + `IsCommMon`

`CommCoalgCat` I can't see any use.

File: Mathlib/Algebra/Category/CommBialgCat.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Category/CommBialgCat.lean:94]: This is already handled by the `ConcreteCategory` API

File: Mathlib/Algebra/Category/CommBialgCat.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Category/CommBialgCat.lean:138]: It's all a mess that will need cleaning up. As it is right now, `CommBialgCat.isoMk` aligns with `CommAlgCat.isoMk`, and that's probably good enough.

File: Mathlib/Algebra/Category/CommBialgCat.lean [hunk 5]
```diff
@@ -0,0 +1,234 @@
...
+def isoMk {X Y : Type v} {_ : CommRing X} {_ : CommRing Y} {_ : Bialgebra R X}
+    {_ : Bialgebra R Y} (e : X ≃ₐc[R] Y) : of R X ≅ of R Y where
+  hom := ofHom (e : X →ₐc[R] Y)
+  inv := ofHom (e.symm : Y →ₐc[R] X)
+
+/-- Build a `BialgEquiv` from an isomorphism in the category `CommBialgCat R`. -/
+@[simps apply, simps -isSimp symm_apply]
+def ofIso (i : A ≅ B) : A ≃ₐc[R] B where
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/CommBialgCat.lean]:
```suggestion
def bialgEquivOfIso (i : A ≅ B) : A ≃ₐc[R] B where
```

**Review by dagurtomas — APPROVED** [review]
LGTM, minor naming suggestion. @Whysoserioushah are you happy with @YaelDillies responses to your comments?

File: Mathlib/Algebra/Category/CommBialgCat.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Category/CommBialgCat.lean]: This matches [`CommAlgCat.ofIso`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Category/CommAlgCat/Basic.html#CommAlgCat.ofIso). What could be meant if not `BialgEquiv`?

Comment (dagurtomas) [reply Mathlib/Algebra/Category/CommBialgCat.lean]: I mean, lots of things could be meant with this. I think both should be changed. For example we have `TopCat.homeoOfIso`, `CategoryTheory.Iso.toEquiv` (for the category of sets), etc. which are a lot clearer

**Comment by dagurtomas** [comment]
Thanks!

maintainer merge

**Comment by Whysoserioushah** [comment]
> LGTM, minor naming suggestion. @Whysoserioushah are you happy with @YaelDillies responses to your comments?

Yes LGTM!

**Review by Whysoserioushah — APPROVED** [review]

File: Mathlib/Algebra/Category/CommBialgCat.lean [hunk 6]
```diff
@@ -0,0 +1,234 @@
...
+  Hom A B := Hom A B
+  id A := ⟨.id R A⟩
+  comp f g := ⟨g.hom'.comp f.hom'⟩
+
+instance : ConcreteCategory (CommBialgCat.{v} R) (· →ₐc[R] ·) where
+  hom := Hom.hom'
+  ofHom := Hom.mk
+
+/-- Turn a morphism in `CommBialgCat` back into a `BialgHom`. -/
+abbrev Hom.hom (f : Hom A B) := ConcreteCategory.hom (C := CommBialgCat R) f
```
Comment (b-mehta) [inline Mathlib/Algebra/Category/CommBialgCat.lean]: Can we have an explicit type ascription on the abbrev for readability?

File: Mathlib/Algebra/Category/CommBialgCat.lean [hunk 7]
```diff
@@ -0,0 +1,234 @@
...
+
+initialize_simps_projections Hom (hom' → hom)
+
+/-!
+The results below duplicate the `ConcreteCategory` simp lemmas, but we can keep them for `dsimp`.
+-/
+
+@[simp] lemma hom_id : (𝟙 A : A ⟶ A).hom = AlgHom.id R A := rfl
+
+/- Provided for rewriting. -/
```
Comment (b-mehta) [inline Mathlib/Algebra/Category/CommBialgCat.lean]: I'm guessing this is intentional, but just to make sure, this is deliberately not a docstring, right?

File: Mathlib/Algebra/Category/CommBialgCat.lean [hunk 8]
```diff
@@ -0,0 +1,234 @@
...
+
+@[simp]
+lemma commBialgCatEquivComonCommAlgCat_inverse_map_unop_hom
+    {A B : (Mon_ (CommAlgCat R)ᵒᵖ)ᵒᵖ} (f : A ⟶ B) :
+  AlgHomClass.toAlgHom ((commBialgCatEquivComonCommAlgCat R).inverse.map f).hom =
+    f.unop.hom.unop.hom := rfl
+
+instance {A : CommBialgCat.{u} R} [IsCocomm R A] :
+    IsCommMon ((commBialgCatEquivComonCommAlgCat R).functor.obj A).unop.X := by
+  dsimp; infer_instance
```
Comment (b-mehta) [inline Mathlib/Algebra/Category/CommBialgCat.lean]: Can we use `inferInstanceAs` here?

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/Algebra/Category/CommBialgCat.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Category/CommBialgCat.lean]: Why? It would be longer and less maintainable

Comment (b-mehta) [reply Mathlib/Algebra/Category/CommBialgCat.lean]: Readability and robustness against changes to the dsimp set

File: Mathlib/Algebra/Category/CommBialgCat.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Category/CommBialgCat.lean]: Oh that's very old junk, let's remove it

**Comment by YaelDillies** [comment]
bors merge
